Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Cefepime / Aztreonam
 
Attending: ___
 
Chief Complaint:
diarrhea, nausea, weight loss
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y/o F with hx of accelerated phase CML s/p sibling allo D0 
___ c/b upper and lower GI GVHD ___, liver GVHD in 
setting of reducing immunosuppression ___, GVHD related 
myopathy resulting in weakness and respiratory failure ___, 
hx of multifocal pna with paecilomyces on bronch who was sent in 

from clinic for diarrhea x 5 days.  Diarrhea started on ___, 
worst on ___ with 10 watery stools.  Has improved in last 
several days, had 2 loose stools day prior to admission and 1 
loose stool morning of admission.  Patient notes night prior to 
start of diarrhea she went to a housewarming party where she ate 
chili.  She is usually very strict in terms of what she eats and 
visitors to her house.  She reports no other consumers of the 
chili got sick.  She notes that she usually has 2 soft bowel 
movements per day.  She denies blood in the stool and melanotic 
stools.  She also notes worsening nausea and decreased PO intake 
over the past ___ weeks but denies vomiting.  She reports weight 
loss of 5 pounds over the past 4 weeks.  Two weeks ago decreased 
her prednisone from 20mg daily to alternating 15mg and 20mg 
daily.  Denies sick contacts and recent travel history.  Denies 
fevers/chills, vomiting, hematochezia, melena, cough, abdominal 
pain.   

 
Past Medical History:
- ___: Bone marrow biopsy showed myeloproliferative 
disorder, likely chronic myelogenous leukemia. Per patient 
report, began taking interferon three times weekly shortly after 
diagnosis.  
- ___: Started Gleevec 400 mg daily. At some point 
thereafter, her dose was increased to 600 mg daily  
- ___: Gleevec increased to 400 mg twice daily with 
hydroxyurea and allopurinol  
- ___: Seen at ___, found to be 
in late chronic phase CML. Stem cell transplant was recommended, 
but she did not wish to pursue this course.  
- ___: Gleevec held due to worsening anemia and 
thrombocytosis. Started on Nilotinib  
- ___: Nilotinib held due to QTC prolongation, started on 
Dasatinib  
- ___: First seen at ___. Bone marrow biopsy showed 
accelerated phase CML, began induction chemo with 7+3.  
- ___: Admission for MRD SCT  
- ___: Discharged on day +32. Transplant complicated by 
mucositis with biopsy of the esophagus suggesting upper GI GVHD 
which was treated with steroids.  
- ___ colonoscopy showing lower GI GVHD  
- ___ readmitted with recurrent aGVHD of the liver upper 
and lower GI tract in the setting of reducing immunosuppression  

- ___ Started on ponatinib 45 mg PO due to evidence of 
disease
- ___ admitted to the hospital for fatigue and diarrhea, 
renal biopsy showed microangiopathic disease, glomerular 
sclerosing and fibrosis of kidney and GI biopsy showed shallow 
crypts that are 
typically seen with GVHD or cellcept toxicity.  Her ponatinib 
was discontinued and prendisone and Cellcept doses were 
decreased.

PMHx:  
- atherosclerotic coronary vascular disease  
- status post CABG in ___  
- hypertension  
- hyperlipidemia  
- Right ankle surgery in ___  
- Total abdominal hysterectomy in ___  
- Appendectomy at age ___  
 
Social History:
___
Family History:
Father - died of MI, no other health problems
Mother - had heart problems, DM
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VITALS - T 97.5, BP 161/89, HR 73, RR 18, O2 sat 100%RA
GENERAL - well-appearing female w/ alopecia in no acute distress
HEENT - NC/AT, PERRL, EOMI, sclerae anicteric, dry mucous 
membranes w/o ulcers 
NECK - supple, no thyromegaly, no JVD, no carotid bruits  
LUNGS - Lungs are clear to ausculatation bilaterally, moving air 

well and symmetrically, resp unlabored, no accessory muscle use. 
. 
HEART - RRR, normal S1/S2, ___ systolic flow murmur 
ABDOMEN - soft, non-distended, non-tender, +BS, no masses or 
HSM, no 
rebound/guarding  
EXTREMITIES - ecchymosis over extremities, hyperpigmented skin 
on dorsal bilateral hands, 2+ peripheral pulses (radials, DPs)  
NEURO - awake, A&Ox3, CNs II-XII grossly intact, muscle strength 

___ throughout 

DISCHARGE PHYSICAL EXAM:
VITALS - Tm 98.9 Tc98.6 BP 143/79 HR 85 RR 18 100%RA
GENERAL - Ill-appearing female w/ alopecia in no acute distress
HEENT - NC/AT, PERRL, EOMI, sclerae anicteric, dry mucous 
membranes w/o ulcers 
NECK - supple, no thyromegaly, no JVD, no carotid bruits  
LUNGS - Lungs are clear to ausculatation bilaterally, moving air 

well and symmetrically, resp unlabored, no accessory muscle use 
HEART - RRR, normal S1/S2, ___ systolic flow murmur 
ABDOMEN - soft, non-distended, non-tender, +BS, no masses or 
HSM, no 
rebound/guarding  
EXTREMITIES - ecchymosis over extremities, hyperpigmented skin 
on dorsal bilateral hands, 2+ peripheral pulses (radials, DPs)  
NEURO - awake, A&Ox3, CNs II-XII intact, muscle strength 
___ throughout 
 
Pertinent Results:
___ LABS:
___ 11:30AM BLOOD WBC-13.2* RBC-2.78* Hgb-8.6* Hct-26.4* 
MCV-95 MCH-30.9 MCHC-32.6 RDW-17.3* Plt ___
___ 11:30AM BLOOD Neuts-86* Bands-0 Lymphs-3* Monos-6 Eos-0 
Baso-0 ___ Metas-4* Myelos-1*
___ 06:45PM BLOOD Ret Man-1.8*
___ 11:30AM BLOOD UreaN-66* Creat-2.6* Na-135 K-4.7 Cl-104 
HCO3-14* AnGap-22*
___ 11:30AM BLOOD ALT-14 AST-18 LD(LDH)-226 AlkPhos-123* 
TotBili-0.4
___ 11:30AM BLOOD TotProt-5.8* Albumin-3.8 Globuln-2.0 
Calcium-9.4 Phos-4.3 Mg-1.6

INTERVAL LABS:
___ 06:35AM BLOOD Hapto-303*
___ 06:40AM BLOOD Ferritn-4423*
___ 11:30AM BLOOD IgG-514*
___ 06:40AM BLOOD Cortsol-7.7

DISHCARGE LABS:
___ 06:25AM BLOOD WBC-4.5 RBC-2.94* Hgb-8.9* Hct-26.7* 
MCV-91 MCH-30.3 MCHC-33.3 RDW-16.8* Plt ___
___ 06:25AM BLOOD Neuts-86* Bands-1 Lymphs-2* Monos-7 Eos-1 
Baso-0 ___ Metas-3* Myelos-0 NRBC-2*
___ 06:25AM BLOOD Glucose-89 UreaN-31* Creat-2.0* Na-138 
K-3.8 Cl-104 HCO3-22 AnGap-16
___ 06:25AM BLOOD ALT-8 AST-21 LD(LDH)-281* AlkPhos-136* 
TotBili-0.4
___ 06:25AM BLOOD Calcium-8.7 Phos-2.1* Mg-1.6

MICRO:
___ respiratory viral screen/culture negative 
___ aspergillus galacomannan negative
___ B-glucan negative
___ HHV6 negative
___ EBV negative
___ Mycoplasma negative
___ BK Virus negative
___ stool cultures negative
___ CMV PCR negative
___ BCR/ABL gene rearrangement 2.013

IMAGING:
EGD ___ Normal
Flex Sig ___ Normal

Renal US ___
Tiny echogenic focus noted in the left kidney, perhaps a small 
AML or a calcified lesion unlikely to be of clinical 
consequence, but otherwise normal renal ultrasound. 

CT Sinus ___
Mucosal thickening in the maxillary sinuses, worse on the left.  
Opacification of the right sphenoid sinus.  Small polyps in the 
right posterior middle nasal turbinate and right pharynx.  The 
ostiomeatal units are patent. 

Gastric Empyting Study ___
IMPRESSION: Rapid gastric emptying. Note that the patient did 
not consume the full standard meal, making these findings 
difficult to interpret. 
 
Brief Hospital Course:
___ y/o F with hx of accelerated phase CML s/p sibling allo D0 
___ presenting with diarrhea x 4 days and nausea/decreased 
PO intake w/ weight loss over the past 1 month.  

# CML
CML s/p sibling allo D0 ___ complicated by GVHD.  No longer 
on TKI given multiple side effects.  Previous chimerism and 
BCR-ABL gene rearrangement study shows no residual disease 
however repeat test showed increased level of BCR-ABL gene.  
Here mycophenylate was stoooped to increase graft versus. 
leukemia effect.  We continued her current prednisone regiemtn 
15mg alternating with 20mg.  Her acyclovir and atovaquone were 
continued. 

# Nausea/Weight Loss
History of 1 month of worsening nausea and decreased PO intake 
correlated with 5 pound weight loss.  Concern for upper GI GVHD 
given decrease in steroids and nausea.  EGD and flex sig 
negative for signs of GVHD.  Her gastric empyting study was 
inconclusive.  Her symptoms improved with zyprexa and zofran.  
She was able to tolerate a diet at time of discharge and her 
symptoms were well-controlled.
 
# Sinus Congestion
Concern for sinus infection given symptoms and immunocompromised 
state.  CT sinus shows mucosal thickening w/o bone involvement.  
She was started on levofloxacin for a total of 14 days of 
treatment.  Her symptoms were imporved with afrin, flonase, and 
saline irrigation.  She will follow-up in ___ clinic in 1 month.

# Diarrhea
Presents with diarrhea x4 days and overnight had more non-bloody 
watery diearrhea.  Most likely secondary to viral or bacterial 
gastroenteritis.  However could be due to GVHD and recent 
decrease in prednisone dosing. Also could be medication side 
effects from mycophenylate.  On previous admission, had diarrhea 
and her mycophenylate dose was decreasd with improvement in his 
symptoms.  Her TKI was also disconinued during this admission.  
Diarrhea has been improving and flex sig was without signs of 
GVHD.  Stool studies were negative for infection.  On discharge 
her diarrhea had resolved.
 
# Non-Anion Gap Metabolic Acidosis 
Elevated bicarb w/ hypercholemia most likely due to combination 
of chronic kidney diease, diarrhea, and NS fluids.  We started 
oral bicarb replacement and her serum bicarb level normalized at 
time of discharge.

# Acute on Chronic Renal Failure
Elevated Cr to 2.6 from baseline 1.9-2.3 likely pre-renal 
etiology secondary to diarrhea and poor PO intake.  Also could 
possibly be due to renal GVHD.  Improved with fluids to 1.8.

# HTN
Her lasix, losartan, metoprolol, and amlodipine were continued.

# CAD
We continued here ASA 81.

Transitional Issues:
- Please follow-up pending Respiratory viral culture, HHV6, EBV, 
B-glucan, and aspergillus galactomannan
- If possible please coordinate upcoming ENT appointment on 
___ with next oncology appointment with Dr. ___

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. PredniSONE 20 mg PO DAYS (___) 
2. PredniSONE 15 mg PO DAYS (___) 
3. Losartan Potassium 100 mg PO DAILY 
4. Acyclovir 400 mg PO Q8H 
5. Atovaquone Suspension 1500 mg PO DAILY 
6. Metoprolol Succinate XL 300 mg PO DAILY 
7. Amlodipine 5 mg PO DAILY 
8. Mycophenolate Mofetil 250 mg PO BID 
9. Furosemide 20 mg PO DAILY 
10. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
11. Omeprazole 20 mg PO DAILY 
12. Calcium Carbonate 500 mg PO BID 
13. magnesium oxide-Mg AA chelate 133 mg Oral BID 
14. Aspirin 81 mg PO DAILY 
15. albuterol sulfate 90 mcg/actuation Inhalation 1 puff daily 
TID prn SOB, wheezing 
16. Vitamin D 50,000 UNIT PO 1X/WEEK (WE) 
 
Discharge Medications:
1. Acyclovir 400 mg PO Q8H 
2. Amlodipine 5 mg PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. Atovaquone Suspension 1500 mg PO DAILY 
5. Calcium Carbonate 500 mg PO BID 
6. Furosemide 20 mg PO DAILY 
7. Metoprolol Succinate XL 300 mg PO DAILY 
8. Omeprazole 20 mg PO DAILY 
9. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
10. Vitamin D 50,000 UNIT PO 1X/WEEK (WE) 
11. albuterol sulfate 90 mcg/actuation Inhalation 1 puff daily 
TID prn SOB, wheezing 
12. magnesium oxide-Mg AA chelate 133 mg Oral BID 
13. Levofloxacin 750 mg PO Q48H Duration: 5 Doses 
Please take the next dose in the evening on ___.   
RX *levofloxacin 750 mg Take 1 tablet by mouth every 48 hours 
Disp #*5 Tablet Refills:*0
14. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
RX *fluticasone 50 mcg Take 2 sprays nasally in both nostirls 
once daily Disp #*1 Bottle Refills:*0
15. Losartan Potassium 100 mg PO DAILY 
16. PredniSONE 15 mg PO DAYS (___) 
17. PredniSONE 20 mg PO DAYS (___) 
18. OLANZapine (Disintegrating Tablet) 5 mg PO QHS Duration: 5 
Days 
RX *olanzapine 5 mg Take 1 tablet,disintegrating(s) by mouth 
every night Disp #*5 Tablet Refills:*0
19. Ondansetron 4 mg PO Q8H:PRN nausea 
RX *ondansetron HCl 4 mg Take tablet by mouth every 8 hours Disp 
#*15 Tablet Refills:*0
 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis: Viral Gastroenteritis, Sinusitis, Acute on 
Chronic Renal Failure
Secondary Diagnosis: Accelerated Phase CML 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital because of diarrhea, nausea, 
and weight loss.  You had a upper GI scope and sigmoidoscopy 
that were normal.  You had a biopsy of your stomach that was 
normal and had no signs of graft versus host disease.  You had a 
CT of your sinuses that showed inflammation, please continue to 
take your antibiotics and follow-up with ENT.  You had an 
ultrasound of your kidneys that was normal.  Your mycophenylate 
was stopped.  Please continue taking your prednisone as before, 
alternating between 15mg and 20mg.  Your diarrhea and nausea 
were improved when you left the hospital.

All the best,
Your ___ Team
 
Followup Instructions:
___